US05391817
3,4-Dihydroxybenzaldehyde (10 g., 72.4 mmol, 1 equiv.) is dissolved in 150 mL of acetone. 1-Bromodecane (45.1 mL, 0.217 mol, 3 equiv.) is added, followed by K2CO3 (10 g., 72.4 mmol, 1 equiv.), and the mixture heated to reflux for 24 hrs. At this time the reaction was incomplete, and another 10 grams of K2CO3 was added and heating continued for 24 hours. The mixture is allowed to cool to room temperature, and is partitioned between ether and water. The aqueous layer is extracted thrice with ether, and the combined organic phases are washed with brine, dried (MgSO4), and evaporated. Upon evaporation, tan crystals formed, and these were collected. Further evaporation yielded another crop of crystals. A total of 16 grams of 3,4-didecyloxybenzaldehyde (38.3 mmol, 53%) was obtained (for an alternative synthesis of this compound see Strzelecka, H.; et al. Mol. Cryst. Liq. Cryst. 1988, 156 (Part A), 347): mp=59.5°-60.5° C.; UVmax (EtOH) 232 nm (ε=15472), 276 nm (ε=11079), 206 nm (ε=9806), 310 nm (ε=9273); 1H NMR (300 MHz, CDCl3) δ 9.81 (s, 1H, CHO), 7.39 (dd, J=2, 8 Hz, 1H, ArH), 7.37 (d, J=2 Hz, 1H, ArH), 6.93 (d, J=8 Hz, 1H, ArH), 4.04 (m, 4H, RCH2O), 1.83 (m, 4H, RCH2CH2O), 1.46 (m, 4H, decyl), 1.25 (m, 24H, decyl), 0.86 (m, 6H, 2×CH3); 13C NMR (75 MHz, CDCl3) δ 190.98 (C=O), 154.68, 149.44, 129.87, 126.57, 111.76, 110.97, 69.13, 31.90, 29.57, 29.34, 29.07, 28.98, 25.97, 25.94, 22.68, 14.10; IR (KBr) 2956, 2922, 2850, 1688, 1674, 1596, 1586, 1510, 1278, 1134, 808 cm-1 ; MS (DCI) m/e 419 (MH+). Anal. Calcd for C27H46O3 : C, 77.46; H, 11.07. Found: C, 77.19; H, 10.99.

reactant | 3,4-Dihydroxybenzaldehyde | 72.4 mmol, 10 g, 1 equiv. | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | 1-Bromodecane | 0.217 mol, 45.1 mL, 3 equiv. | BrCCCCCCCCCC | C10H21Br
reactant | K2CO3 | 72.4 mmol, 10 g, 1 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 10 grams | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3,4-didecyloxybenzaldehyde | 38.3 mmol, 16 grams, 53% | C(CCCCCCCCC)OC=1C=C(C=O)C=CC1OCCCCCCCCCC | C27H46O3
